datasets/10k__Tet_Int.csv
SMILES Labelled
"[Li][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OCC)C>>[Li][O:21]C.[C:20](=[O:10])(OC1=CC=CC=C1)OCC 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([S][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S][H] 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(CC)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H][O+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH:10][H].CC[NH+:21]=[C:20]([NH][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH]C)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH]C)[NH]CC 21=20;20,10=10"
"C[O:10][H].C[NH+:21]=[C:20]([O][H])[O]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C)([O][H])[O]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)[H])C)C)[O-:10])CCCCCC 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC)C>>[H]C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[O-:21]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)[H])CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)[H])CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C(C)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O:10]C([H])C([H])C1[H]>>[O-:10]C([H])C([H])C([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"C1=CC=CC=C1[O:10][C:20]([O-:21])(OCCCCCC)OCC>>[O:21]=[C:20](OCCCCCC)OCC.[O-:10]C1=CC=CC=C1 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"[O:10]([Na])C(CC)C(C)C([H])C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])C(C)C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[OH:10]C(CC)/C([H])=C(C)\C(C)[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C(C)C(C)=C([H])C(CC)[OH+:10]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O+:10]([K])C(CCC)C(C)C1O>>[O:10]([K])C(CCC)C(C)C([C:20](OC)=[O:21])O 21=20;20,10=10"
"[OH:21][C:20]2(OCC)C(C([H])C3=C([OH+:10]2)C=CC=C3)[H]>>[OH:10]C(C=CC=C1)=C1C([H])C([C:20](OCC)=[OH+:21])[H] 21=20;20,10=10"
"[O-:10]C(C)/C(O)=C([C:20](OCC)=[O:21])/C>>[O-:21][C:20]1(OCC)[O:10]C(C)C(O)=C1C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C(O)C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C([H])C(O)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][S:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[S]2.[H][O:10][H] 21=20;20,10=10"
"C[O:10][H].CC[NH+:21]=[C:20]([O][H])[O]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([O][H])[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
